US07220862B2
(R)-2-Amino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester
A solution of (R)-2-benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester (310 mg) in 4.4% formic acid in methanol (20 ml, freshly prepared in degassed methanol) was added via cannula to a suspension of 10% palladium on charcoal in 4.4% formic acid in methanol (20 ml, freshly prepared in degassed methanol). The resulting mixture was stirred at room temperature for 4 h. After filtration through a pad of celite, the solvents were removed in vacuo giving a tan solid. The solid was dissolved in a mixture of ethyl acetate (50 mL), toluene (10 mL) and ethanol (40 ml), and solid sodium bicarbonate (3.1 g) was added. The mixture was stirred at room temperature for 2 h and filtered. Solvents were removed in vacuo to afford the title compound. 1H-NMR (CD3OD, 500 MHz) δ 8.41 (br s, 2H), 7.17 (s, 1H), 7.09 (br s, 2H), 4.32 (s, 1H), 3.83 (s, 3H), 3.33 (s, 1H), 3.30 (s, 1H), 3.22 (s, 1H). Mass spec.: 237.20 (MH)+.

reactant | (R)-2-benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | 310 mg | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H18N2O6
reactant | sodium bicarbonate | 3.1 g | C([O-])(O)=O.[Na+]
solvent | formic acid | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (R)-2-Amino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1)N)=O | C11H12N2O4
